US08012956B2
A solution of methyl 7-methyl-2-(methyloxy)-2,3-dihydro-1-benzofuran-6-carboxylate in phosphoric acid (3 mL) was stirred at room temperature for 10 minutes and then was stirred at 100° C. for 15 minutes. The reaction mixture was cooled to room temperature and then was partitioned between water and diethyl ether. The aqueous portion was extracted three times with diethyl ether. The combined organic portion was washed three times with water and twice with 10% aqueous potassium carbonate. The basic portion was extracted three times with diethyl ether and the combined organic portions were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a brown residue which was purified by column chromatography eluting with 5% ethyl acetate in hexanes. Pure fractions were concentrated in vacuo to afford (371 mg, 54%) of methyl 7-methyl-1-benzofuran-6-carboxylate as a colorless oil.

reactant | methyl 7-methyl-2-(methyloxy)-2,3-dihydro-1-benzofuran-6-carboxylate | CC1=C(C=CC=2CC(OC21)OC)C(=O)OC | C12H14O4
solvent | phosphoric acid | 3 mL | P(O)(O)(O)=O | H3O4P
product | methyl 7-methyl-1-benzofuran-6-carboxylate | 371 mg, 54% | CC1=C(C=CC=2C=COC21)C(=O)OC | C11H10O3
